US07384789B2
0.200 g (1.00 mmol) of commercially available 2-chloro-1,3-dinitrobenzene was dissolved in a warm solution of 15 ml methanol and 0.223 g (4.13 mmol) of NaOMe. The reaction was stirred overnight with continued warming. The residue was dissolved in water after evaporation of the solvent. The aqueous solution was extracted with dichloromethane, dried and evaporated under reduced pressure to give 0.187 g of 2,6-dinitroanisole (95%) as yellow flakes. 1H NMR (CDCl3) δ 8.06 (d, J=8.2 Hz, 2H, Ar—H), 7.38 (t, J=8.2 Hz, 1H, Ar—H), 4.09 (s, 3H, O—CH3). 13C NMR (CDCl3) δ 148.0, 129.4, 124.2, 65.1.

reactant | 2-chloro-1,3-dinitrobenzene | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | NaOMe | 4.13 mmol, 0.223 g | C[O-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | water | O | H2O
product | 2,6-dinitroanisole | 0.187 g, 95% | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])OC | C7H6N2O5
